US07338950B2
3-Fluoro-4-(3-trifluoromethylpyridin-2-yl)benzoic acid:
The boronic acid (2.45 mmol) was dissolved in acetonitrile (2.4 ml) and 3-(trifluoromethyl)-2-chloropyridine was added. After mixing, tetrakis palladium was added (25 mg; 0.01 mol %), follwed by 0.8 ml of water and K2CO3 (912 mg; 3.0 mmol). The reaction mixture was heated at 160° C. in a Personal Chemistry Emrys Microwave for 300s. After reaction completion, the solvents were evaporated and the residue was dissolved in EtOAc and washed with water and brine. The organic layer was dried over MgSO4, filtered and evaporated. The residue was then dissolved in a 1:1 mixture of THF/2NKOH and heated until saponification was complete. The basic layer was then extracted with EtOAc and acidified with conc.HCl. The aqueos layer was then extracted three times with EtOAc. The combined organic layers were dried over MgSO4, filtered and evaporated to give the desired material as a white solid (530 mg; 76%).

reactant | boronic acid | 2.45 mmol | B(O)O | BH3O2
reactant | 3-(trifluoromethyl)-2-chloropyridine | FC(C=1C(=NC=CC1)Cl)(F)F | C6H3ClF3N
reactant | water | 0.8 ml | O | H2O
reactant | K2CO3 | 3.0 mmol, 912 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 2.4 ml | C(C)#N | C2H3N
catalyst | tetrakis palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.[Pd]
product | 3-Fluoro-4-(3-trifluoromethylpyridin-2-yl)benzoic acid | 530 mg, 76% | FC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1C(F)(F)F | C13H7F4NO2
